US09388173B2
Step 1: 2-Chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine
To a solution of NaH (106.6 mg, 2.67 mmol) in THF (5 mL) was added 2-chloro-7H-pyrrolo[2,3-d]pyrimidine (500 mg, 2.54 mmol) at 0° C. and stirred for 30 minutes at the same temperature. CH3I (1.5 g, 10.2 mmol) was added at 0° C. and the combined mixture stirred for 3 h at 15° C. After TLC showed the reaction was complete, the mixture was diluted with water 20 mL) and extracted with ethyl acetate EA (2×20 mL) and the combined organic layers were washed with brine (30 mL), dried over Na2SO4 and concentrated to give the title compound (254 mg, 47.4%) as colorless oil which was used in next step without further purification.

reactant | NaH | 2.67 mmol, 106.6 mg | [H-].[Na+]
reactant | 2-chloro-7H-pyrrolo[2,3-d]pyrimidine | 2.54 mmol, 500 mg | ClC=1N=CC2=C(N1)NC=C2 | C6H4ClN3
reactant | CH3I | 10.2 mmol, 1.5 g | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-Chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 254 mg, 47.4% | ClC=1N=CC2=C(N1)N(C=C2)C | C7H6ClN3
